US08735440B2
Step 2. tert-butyl 3,6-dicyclopropyl-9H-carbazole-9-carboxylate
Following a literature procedure (Petit et al., ChemMedChem 2009, 4, 261-275.), tert-butyl 3,6-dibromo-9H-carbazole-9-carboxylate (0.0200 g, 0.0470 mmol), cyclopropyl boronic acid (0.0202 g, 0.235 mmol), palladium acetate (10 mol %, 0.0011 g, 0.00470 mmol), potassium phosphate tribasic (0.0350 g, 0.165 mmol), tricyclohexylphosphine (0.0026 g, 0.00941 mmol), water (12.2 μL) and a stir bar were combined in a sealed vial. The vial was sparged with N2 and charged with 0.22 mL degassed toluene. The mixture was stirred at 100° C. for 65 h. The crude reaction mixture was diluted with 10 mL EtOAc and washed with brine (3×10 mL). The organic layer was dried over anhydrous Na2SO4 and evaporated to afford the crude product, which was used as is without further purification.

reactant | tert-butyl 3,6-dibromo-9H-carbazole-9-carboxylate | 0.0470 mmol, 0.0200 g | BrC=1C=CC=2N(C3=CC=C(C=C3C2C1)Br)C(=O)OC(C)(C)C | C17H15Br2NO2
reactant | cyclopropyl boronic acid | 0.235 mmol, 0.0202 g | C1(CC1)B(O)O | C3H7BO2
reactant | potassium phosphate tribasic | 0.165 mmol, 0.0350 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | tricyclohexylphosphine | 0.00941 mmol, 0.0026 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
catalyst | palladium acetate | 0.00470 mmol, 0.0011 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | 12.2 μL | O | H2O
product | tert-butyl 3,6-dicyclopropyl-9H-carbazole-9-carboxylate | C1(CC1)C=1C=CC=2N(C3=CC=C(C=C3C2C1)C1CC1)C(=O)OC(C)(C)C | C23H25NO2
